US07511146B2
Step 7: Benzimidazole formation was accomplished to give compound 74 as exampled in procedure AH below:
Membranes from CHO cells expressing the MCH receptor were prepared by lysing cells with 5 mM HEPES for 15 min at 4C. Cell lysates were centrifuged (12.5000×g, 15 min) and the pellet was resuspended in 5 mM HEPES. For each 96-well plate (Microlite, Dynex Technologies), 1 mg of cell membranes were incubated with 10 mg of wheat germ agglutinin SPA beads (Amersham) for 5 min at 4 C in a volume of 10 ml of binding buffer (25 mM HEPES, 10 mM MGCl2, 10 mM NaCl, 5 mM MnCl2, 0.1% BSA). The membrane/bead mixture was centrifuged (1500×g, 3.5 min), the supernatant was aspirated, and the pellet was resuspended in 10 ml binding buffer. The centrifugation, aspiration and resuspension were then repeated. The membrane/bead mixture (100 μl) was then added to 96-well plates containing 50 μl of 500 pM [125I]-MCH (NEN) and 50 ml of the appropriate concentration of compound (4× the desired final concentration). Nonspecific binding was determined by including 1 μM MCH in the binding reaction. The binding reaction was incubated at room temperature for 2 h. Plates were then analyzed in a TOPCOUNT microplate scintillation counter (Packard). Data was analyzed and Ki values were determined using GraphPad Prism.

reactant | Dynex | CN(C)C(=O)NC1=CC(=C(C=C1)Cl)Cl | C9H10Cl2N2O
reactant | NaCl | 10 mM | [Na+].[Cl-]
solvent | HEPES | 5 mM | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
solvent | HEPES | 25 mM | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
solvent | HEPES | 5 mM | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
product | Benzimidazole | N1=CNC2=C1C=CC=C2 | C7H6N2
